US06217793B1
{circle around (2)}: A mixture comprising 3.0 g of (S)-4-(1′-methylnonylcarbonyloxy)-1-benzyloxybenzene, 0.3 g of palladium/carbon and 20 g of ethyl acetate was stirred for 6 hours under hydrogen atmosphere. Then, palladium/carbon was filtered off, followed by distilling off ethyl acetate from the filtrate, whereby 2.0 g of (S)-4-(1′-methylnonylcarbonyloxy)phenol was obtained in the form of a colorless oily substance.

reactant | (S)-4-(1′-methylnonylcarbonyloxy)-1-benzyloxybenzene | 3.0 g | C[C@@H](CCCCCCCC)C(=O)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H32O3
catalyst | palladium/carbon | 0.3 g | [Pd] | Pd
solvent | ethyl acetate | 20 g | C(C)(=O)OCC | C4H8O2
product | (S)-4-(1′-methylnonylcarbonyloxy)phenol | 2.0 g | C[C@@H](CCCCCCCC)C(=O)OC1=CC=C(C=C1)O | C17H26O3
